US04107326
1-Benzyl-3-(2,6-dichlorobenzylideneamino)-2-ethylguanidine
A 10.0 g. portion of 1-amino-2-benzyl-3-ethylguanidine hydroiodide in a mixture of 100 ml. each of diethyl ether, n-hexane and methylene chloride is shaken with 10 ml. of 5N NaOH. A 5.46 g. portion of 2,6-dichlorobenzaldehyde is added and the mixture is shaken and then allowed to stand at room temperature overnight. The organic layer is washed with saturated aqueous sodium chloride, passed through hydrous sodium magnesium silicate and concentrated under reduced pressure. The residue is crystallized from diethyl ether-hexane to give the desired product as a bright yellow solid, m.p. 101°-103° C.

reactant | 1-amino-2-benzyl-3-ethylguanidine hydroiodide | I.NNC(=NCC1=CC=CC=C1)NCC
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | NaOH | 5N | [OH-].[Na+]
reactant | 2,6-dichlorobenzaldehyde | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | n-hexane | CCCCCC | C6H14
product | 1-Benzyl-3-(2,6-dichlorobenzylideneamino)-2-ethylguanidine | C(C1=CC=CC=C1)NC(=NCC)NN=CC1=C(C=CC=C1Cl)Cl | C17H18Cl2N4
